US08835472B2
N-[2-(4-Biphenyl-4-ylethynyl-phenyl)-1-methyl-ethyl]acetamide
To 0.22 g (1.00 mmol) biphenyl-4-yl-propynoic acid (I28) and 0.26 g (1.00 mmol) N-[2-(4-bromo-phenyl)-1-methyl-ethyl]-acetamide (I44.1) in 3.00 mL NMP are added 0.06 g (0.10 mmol) 1,1′-bis(diphenylphosphonino)ferrocene, 1.68 g (6.00 mmol) TBAF*H2O and 0.05 g (0.05 mmol) tris(dibenzylidenacetone)dipalladium(0). The reaction mixture is stirred at 90° C. for 3 h. The mixture is allowed to cool to r.t. and poured onto saturated aq NH4Cl solution. The precipitate is filtered, washed with water and purified by column chromatographie (silica gel; DCM/MeOH 9/1). The resulting product is triturated with isopropanol and dried at 60° C. in vacuo.

reactant | biphenyl-4-yl-propynoic acid | 1.00 mmol, 0.22 g | C1(=CC=C(C=C1)C#CC(=O)O)C1=CC=CC=C1 | C15H10O2
reactant | N-[2-(4-bromo-phenyl)-1-methyl-ethyl]-acetamide | 1.00 mmol, 0.26 g | BrC1=CC=C(C=C1)CC(C)NC(C)=O | C11H14BrNO
reactant | TBAF | 6.00 mmol, 1.68 g | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | NMP | 3.00 mL | CN1CCCC1=O | C5H9NO
product | N-[2-(4-Biphenyl-4-ylethynyl-phenyl)-1-methyl-ethyl]acetamide | C1(=CC=C(C=C1)C#CC1=CC=C(C=C1)CC(C)NC(C)=O)C1=CC=CC=C1 | C25H23NO
